US08633173B2
4-(3-Nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester was prepared from 1-bromo-3-nitro-benzene (3.0 g, 15 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (5.0 g, 16 mmol) in a manner analogous to Example 2c. Product isolated as a yellow oil (3.95 g, 88%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.23 (s, 1H), 8.11 (d, J=8.1 Hz, 1H), 7.69 (d, J=7.7 Hz, 1H), 7.51 (t, J=7.8 Hz, 1H), 6.20 (br s, 1H), 4.12 (s, 2H), 3.70-3.65 (m, 2H), 2.56 (s, 2H), 1.50 (s, 9H).

reactant | 1-bromo-3-nitro-benzene | 15 mmol, 3.0 g | BrC1=CC(=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 16 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
product | 4-(3-Nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H20N2O4
